US07081461B1
A mixture of ethyl 2-amino-4-(2,2,2-trifluoroethoxy)-5-methoxybenzoate (20.2 g, 69.1 mmol) and formamide (50 ml) was heated at 175° C. for 6 hours. The mixture was allowed to cool to ambient temperature, ethanol (150 ml) was added and the reaction allowed to stand for 18 hours. Collection of the solid which had precipitated by suction filtration, followed by washing with ethanol (2×50 ml) and drying in vacuo, yielded 6-methoxy-7-(2,2,2-trifluoroethoxy)-3,4-dihydroquinazolin-4-one (15.8 g, 84% yield) as a pale brown crystalline solid:

reactant | ethyl 2-amino-4-(2,2,2-trifluoroethoxy)-5-methoxybenzoate | 69.1 mmol, 20.2 g | NC1=C(C(=O)OCC)C=C(C(=C1)OCC(F)(F)F)OC | C12H14F3NO4
reactant | formamide | 50 ml | C(=O)N | CH3NO
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 6-methoxy-7-(2,2,2-trifluoroethoxy)-3,4-dihydroquinazolin-4-one | 15.8 g, 84% yield | COC=1C=C2C(NC=NC2=CC1OCC(F)(F)F)=O | C11H9F3N2O3
